US08937178B2
A 0° C. solution of 4-(3-fluorophenyl)-7-methoxyphthalazin-1(2H)-one (7.0 g, 25.9 mmol) in THF (160 mL) was treated with LiHMDS (1M in THF) (38 mL, 38 mmol) and stirred for 30 min. 2-Bromo-N-methyl-N-(2-methylbenzo[d]oxazol-6-yl)acetamide (7.33 g, 25.9 mmol) in THF (40 mL) was added dropwise and stirring was maintained at rt for 16 h. The reaction mixture was diluted with water (200 mL) and the product extracted with EtOAc (3×150 mL). The organics were washed with brine (100 mL), dried over Na2SO4, and concentrated. The crude was triturated with MeOH (250 mL) to yield 2-(4-(3-fluorophenyl)-7-methoxy-1-oxophthalazin-2(1H)-yl)-N-methyl-N-(2-methylbenzo[d]oxazol-6-yl)acetamide (9.1 g, 74%). (472.87 [M+H]) 1H NMR: (400 MHz, DMSO) δ: 2.62 (s, 3H), 3.33 (s, 3H), 4.95 (s, 3H), 4.73 (s, 2H), 7.37-7.43 (m, 4H), 7.48-7.51 (d, J=2.4, 8.8, 1H), 7.58-7.73 (m, 4H), 7.90 (s, 1H).

reactant | 4-(3-fluorophenyl)-7-methoxyphthalazin-1(2H)-one | 25.9 mmol, 7.0 g | FC=1C=C(C=CC1)C1=NNC(C2=CC(=CC=C12)OC)=O | C15H11FN2O2
reactant | LiHMDS | 38 mmol, 1M, 38 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 2-Bromo-N-methyl-N-(2-methylbenzo[d]oxazol-6-yl)acetamide | 25.9 mmol, 7.33 g | BrCC(=O)N(C1=CC2=C(N=C(O2)C)C=C1)C | C11H11BrN2O2
solvent | THF | 160 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | water | 200 mL | O | H2O
product | 2-(4-(3-fluorophenyl)-7-methoxy-1-oxophthalazin-2(1H)-yl)-N-methyl-N-(2-methylbenzo[d]oxazol-6-yl)acetamide | 9.1 g, 74% | FC=1C=C(C=CC1)C1=NN(C(C2=CC(=CC=C12)OC)=O)CC(=O)N(C1=CC2=C(N=C(O2)C)C=C1)C | C26H21FN4O4
